US05238602
A solution of 4.5 g of 1,1-ethylenedioxy-4-(1-pentynyl)cyclohexane in 54 ml of tetrahydrofuran was treated dropwise with about 50 ml of pre-condensed ammonia in a sulphonation flask equipped with magnetic stirrer. The mixture was subsequently treated portionwise at -78° C. within 7 hours with 1.3 g of sodium. 1.5 hours after the last addition the ammonia was evaporated off and the reaction mixture was neutralized with 25% hydrochloric acid and left to stand overnight. Thereafter, the reaction mixture was partitioned three times in water/diethyl ether. The aqueous phases were back-extracted with diethyl ether. The organic phases were dried over magnesium sulphate and freed from solvent on a rotary evaporator. The pale yellow liquid obtained (3.8 g) was treated with 200 ml of acetone and 0.1 ml of concentrated sulphuric acid. The mixture was heated to reflux for 10 minutes, then treated with water and freed from acetone on a rotary evaporator. The residue was partitioned three times in methylene chloride/water. The aqueous phases were back-extracted with methylene chloride. The organic phases were dried over magnesium sulphate and evaporated. Chromatographic separation of the residual, yellow liquid (3.5 g) on silica gel with ethyl acetate/petroleum ether (vol. 7:93) gave 3.0 g (83.5%) of 4-(1E-pentenyl)cyclohexanone as a pale yellow liquid.

reactant | 1,1-ethylenedioxy-4-(1-pentynyl)cyclohexane | 4.5 g | C1OC2(CCC(CC2)C#CCCC)OC1 | C13H20O2
reactant | ammonia | N | H3N
reactant | sodium | 1.3 g | [Na] | Na
reactant | sulphuric acid | 0.1 ml | S(O)(O)(=O)=O | H2O4S
solvent | tetrahydrofuran | 54 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
solvent | acetone | 200 ml | CC(=O)C | C3H6O
product | 4-(1E-pentenyl)cyclohexanone | 3.0 g, 83.5% | C(=C\CCC)/C1CCC(CC1)=O | C11H18O
